US04466972
Example 1: 4-(2,1,3-Benzoxadiazol-4-yl)-2,6-dimethyl-1,4-dihydro-pyridine-3,5-dicarboxylic acid diethyl ester
3.2 g of 2,1,3-benzoxadiazole-4-aldehyde, 5.7 g of acetoacetic acid ethyl ester, 2.5 ml of concentrated ammonia and 10 ml of ethanol are refluxed for 6 hours. The mixture is subsequently evaporated and the residual oil is chromatographed on silica gel with chloroform/acetic acid ethyl ester (9:1) to yield the title compound. The product is recrystallised from toluene, m.p. 153°-155°.

reactant | 2,1,3-benzoxadiazole-4-aldehyde | 3.2 g | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | acetoacetic acid ethyl ester | 5.7 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | ammonia | 2.5 ml | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(2,1,3-Benzoxadiazol-4-yl)-2,6-dimethyl-1,4-dihydro-pyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=CC2=NON=C21)C(=O)OCC)C)C | C19H21N3O5
